US07253194B2
3-(3-Phenyl-propoxy)-propionic acid (45)
To a stirred solution of 3-phenyl-1-propanol (1.36 g, 10 mmol) in THF (50 mL) at room temperature was added sodium hydride dispersion in oil (60%, 400 mg) portonwise. The cloudy solution warmed sightly and was stirred at room temperature for 30 minutes, and cooled to 0° in an ice-salt bath. Methyl acrylate (1.1 equivalents) was added, the ice bath was removed and stirring was continued for 30 minutes. The mixture was then cautiously treated with water (10 mL) and stirring was continued at room temperature overnight. The solvents were removed under reduced pressure and the residue was partitioned between water (100 mL) and ether (100 mL). The aqueous portion was made acidic to <pH 1 with concentrated HCl, and extracted with ether(2×50 ml). The ether extract was dried (MgSO4), filtered and evaporated under educed pressure to yield the title compound as a mobile colourless oil (0.684 g, 33%). 1H NMR (CDCl3) δ 9.19 (br s, 1H), 7.4-7.0 (5H, m, ArH), 3.60 (2H, t, J 6.2 Hz, OCH2), 3.36 (2H, t, J 6.2 Hz, OCH2), 2.54 (4H, m, 2×CH2), 1.79 (2H, m, CH2). 13C (CDCl3) δ 177.4, 141.7, 128.4, 128.3, 125.7, 70.1, 65.7, 34.8, 31.4, 32.1, 31.0.

reactant | 3-phenyl-1-propanol | 10 mmol, 1.36 g | C1(=CC=CC=C1)CCCO | C9H12O
reactant | sodium hydride | [H-].[Na+]
reactant | Methyl acrylate | 1.1 equivalents | C(C=C)(=O)OC | C4H6O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(3-Phenyl-propoxy)-propionic acid | 0.684 g, 33% | C1(=CC=CC=C1)CCCOCCC(=O)O | C12H16O3
